US06372770B1
2-(3-Cyclopentyloxy-4-methoxybenzyl)-5-chloro-7-propylbenzoxazole
A solution of 2-(3-cyclopentyloxy-4-methoxybenzyl)-5-chloro-7-allylbenzoxazole (1.2 g, 3.0 mmol) in ethyl acetate (50 ml) was hydrogenated over 0.104 g of 10% Pd on carbon catalyst in a Parr apparatus at 23 psi until hydrogen uptake ceased. The catalyst was filtered and the solvent was evaporated. The residue was recrystallized from hexane to give the title compound (0.55 g, 46%), mp 54-55° C.

reactant | 2-(3-cyclopentyloxy-4-methoxybenzyl)-5-chloro-7-allylbenzoxazole | 3.0 mmol, 1.2 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=C(C=C3CC=C)Cl)C=CC1OC | C23H24ClNO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 0.104 g | [Pd] | Pd
product | 2-(3-Cyclopentyloxy-4-methoxybenzyl)-5-chloro-7-propylbenzoxazole | 0.55 g, 46% | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=C(C=C3CCC)Cl)C=CC1OC | C23H26ClNO3
